US08461134B2
Ethyl 5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzylcarbamate
To a solution of 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (500 mg, 0.89 mmol) and TEA (360 mg, 3.6 mmol) in THF (200 mL) at −20° C. was slowly added ethyl chloroformate (97.5 mg, 0.89 mmol) in THF (10 mL). Then the mixture was stirred at room temperature for 2 hrs. The mixture was concentrated in vacuo and the residue was purified by prep-HPLC (column: Luna 300×50.0 mm, 10 u; liquid phase: [A-H2O+0.025% TFA; B-MeCN] B %: 10%-35%, 25 min) to give the title compound (240 mg, 58%) as TFA salt. 1H NMR DMSO 400 MHz δ 9.99 (s, 1H), 7.52 (d, J=8.8 Hz, 1H), 7.42 (q, 3H), 7.20 (d, J=8.0 Hz, 1H), 7.11 (dd, J1=8.0 Hz, J2=2.0 Hz, 1H), 6.48 (s, 1H), 6.35 (q, 1H), 4.84 (s, 2H), 4.50 (s, 2H), 4.00 (q, 2H), 1.17 (t, 3H).

reactant | 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 0.89 mmol, 500 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CN | C14H16BN3O4S
reactant | ethyl chloroformate | 0.89 mmol, 97.5 mg | ClC(=O)OCC | C3H5ClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)benzylcarbamate | 240 mg, 58% | NC=1C=CC(=C(CNC(OCC)=O)C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C17H20BN3O6S
